US04220647
A mixture of 1-(N-benzyloxycarbonyl-p-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (4.6 g), conc. hydrochloric acid (46 ml) and acetic acid (46 ml) was refluxed for 2 hours. The reaction mixture was concentrated to dryness and the residue was dissolved in water and washed with a mixture of ether and ethyl acetate (1:1). The aqueous layer was treated with activated charcoal and concentrated to dryness to give 1-(p-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride (3.1 g). The product (2.5 g) was converted into its d-camphor-10-sulfonate in a conventional manner and the crystals obtained were recrystallized from water to give the d-camphor-10-sulfonate of the above-mentioned product, mp 213° to 215° C.

reactant | 1-(N-benzyloxycarbonyl-p-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 4.6 g | Cl.C(C1=CC=CC=C1)OC(=O)N(C1=CC=C(C=C1)F)CC1NCCC2=CC(=C(C=C12)O)O
reactant | hydrochloric acid | 46 ml | Cl | ClH
solvent | acetic acid | 46 ml | C(C)(=O)O | C2H4O2
product | 1-(p-fluoroanilinomethyl)-6,7-dihydroxy-1,2,3,4-tetrahydroisoquinoline hydrochloride | 3.1 g | Cl.FC1=CC=C(NCC2NCCC3=CC(=C(C=C23)O)O)C=C1 | InChI=1S/C16H17FN2O2.ClH/c17-11-1-3-12(4-2-11)19-9-14-13-8-16(21)15(20)7-10(13)5-6-18-14;/h1-4,7-8,14,18-21H,5-6,9H2;1H
